Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],1.43355595056
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],2.06419476266
[C:8]([H:9])#[C:10][C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-3.67681238161
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],4.33141098674
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-5.369448138790001
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])=[O:6]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],0.53546042246
[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C@:3]([H:4])([C:5]=[O:6])[C:11]([H:12])([H:13])[H:14],0.94345587328
[C:6]#[C:7][H:8].[H:1][C:2]#[C:3][C:4]([H:5])[O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10],-4.584492797619999
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6].[O:7]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][O:7],-7.47783078105
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12],5.88892949304
[C:1]#[C:2][C:3][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.08702403182
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],1.36758269013
[H:1][O:2][C:3]([H:4])[C:9]([C:7](=[C:6]=[O:5])[H:8])([H:10])[H:11]>>[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]=[C:7]([H:8])[C:9]1([H:10])[H:11],0.54303818587
[H:1][O:2][C:3]#[C:4][H:5].[O:6]=[C:7]([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-0.60253323804
[H:1][C:2]=[C:3]([H:4])[C@:8]([C:5]([H:6])[H:7])([H:9])[O:10][O:11][H:12]>>[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[O:10][O:11][H:12],-0.2870280880999999
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[O:7][H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7][H:8],-3.69229218527
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.18596236942
[C:1]#[C:2][O:3][C:4][C:6]([H:7])([H:8])[H:9].[O:5]>>[C:1]#[C:2][O:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9],-7.864864040710001
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]#[C:10][H:11],4.2090651916500015
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],5.23593919659
[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-3.5768402784699993
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:8]([H:9])[H:10].[H:7],1.70820242352
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])#[C:7][H:8],-1.3909778403100002
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]=[O:7])[C:9]([H:10])([H:11])[H:12],1.83480605819
[H:1][O:2][C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3][C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],3.39696750457
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14].[H:11]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.78920313193
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8],7.18288352773
[H:1][C:2]([H:3])[C:4]1([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]1[H:13]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12][H:13],-0.7931872102099999
[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]=[C:5]([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],0.509336567659
